US06855710B2
d) 3-[1-chloro-1-(4-phthalimidomethyl-phenyl)-methylidene]-1-acetyl-5-nitro-2-indolinone
Prepared analogously to Example 2b from 3-[1-hydroxy-1-(4-phthalimidomethyl-phenyl)-methylidene]-1-acetyl-5-nitro-2-indolinone and phosphorus pentachloride in toluene.

reactant | 3-[1-hydroxy-1-(4-phthalimidomethyl-phenyl)-methylidene]-1-acetyl-5-nitro-2-indolinone | OC(C1=CC=C(C=C1)CN1C(C=2C(C1=O)=CC=CC2)=O)=C2C(N(C1=CC=C(C=C21)[N+](=O)[O-])C(C)=O)=O | C26H17N3O7
reactant | phosphorus pentachloride | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-[1-chloro-1-(4-phthalimidomethyl-phenyl)-methylidene]-1-acetyl-5-nitro-2-indolinone | ClC(C1=CC=C(C=C1)CN1C(C=2C(C1=O)=CC=CC2)=O)=C2C(N(C1=CC=C(C=C21)[N+](=O)[O-])C(C)=O)=O | C26H16ClN3O6
